US08580762B2
Step 3: Synthesis of (1R,2S,3R,5R)-3-(4-chloro-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-5-(hydroxymethyl)cyclopentane-1,2-diol
A suspension of crude (1R,2S,3R,5R)-3-((6-chloro-5-(2,2-diethoxyethyl)pyrimidin-4-yl)amino)-5-(hydroxymethyl)cyclopentane-1,2-diol in 1,4-dioxane (160 mL) was treated with a 1 M aqueous solution of HCl (30 mL, 30 mmol) and stirred at RT for 69.5 h; HPLC indicated clean conversion to one product, LC MS showed mass for desired product. The reaction mixture was neutralized with concentrated aqueous NH4OH (to pH 7) and the volatiles were removed in vacuo to afford a brown slurry, which was carried on without further purification: MS (ESI+) for C12H14ClN3O3 m/z 284.1 (M+H)+; MS (ESI−) for C12H14ClN3O3 m/z 282.2 (M−H)−, 328.2 (M+HCO2)−; HPLC purity >95% (ret. time, 1.947 min). Variation on route from J. Med. Chem. 10, 665 (1967).

reactant | (1R,2S,3R,5R)-3-((6-chloro-5-(2,2-diethoxyethyl)pyrimidin-4-yl)amino)-5-(hydroxymethyl)cyclopentane-1,2-diol | ClC1=C(C(=NC=N1)N[C@H]1[C@@H]([C@@H]([C@H](C1)CO)O)O)CC(OCC)OCC | C16H26ClN3O5
reactant | HCl | 30 mmol, 30 mL | Cl | ClH
solvent | 1,4-dioxane | 160 mL | O1CCOCC1 | C4H8O2
product | (1R,2S,3R,5R)-3-(4-chloro-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-5-(hydroxymethyl)cyclopentane-1,2-diol | ClC=1C2=C(N=CN1)N(C=C2)[C@H]2[C@@H]([C@@H]([C@H](C2)CO)O)O | C12H14ClN3O3
